US05554630
4-t-Butylaniline (5 g, 33.58 mmol) in acetic anhydride (25 ml) was stirred at ambient temperature for 0.5h. The mixture was cooled in an ice-bath and nitric acid (6 ml, 65%) was added at such a rate that the temperature did not exceed 18° C. Following the addition the mixture was poured on ice (200 g). The precipitate was filtered off, washed thoroughly with water and dried to yield N-acetyl-4-t-butyl-2-nitroaniline (7.15 g, 90%). Mp. 109°-110° C.

reactant | 4-t-Butylaniline | 33.58 mmol, 5 g | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | nitric acid | 6 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-acetyl-4-t-butyl-2-nitroaniline | 7.15 g, 90% | C(C)(=O)NC1=C(C=C(C=C1)C(C)(C)C)[N+](=O)[O-] | C12H16N2O3
